US05336482
1-(3-Butoxypropyl)-3-hydroxy-2-methylpyrid-4-one was prepared by dissolving 10.0 g maltol and 3 equivalents of 3-butoxypropylamine in 200 ml of water. The mixture was refluxed for 72 hours, decolorizing charcoal was added and the mixture was stirred for an additional 0.5 hours. The mixture was filtered through a coarse frit containing 0.5 inches of Celite, and the filtrate was concentrated in vacuo to remove the water and excess amine. The remaining oil was crystallized from ether, yielding crystals of pure product.

reactant | maltol | 10.0 g | CC1=C(C(=O)C=CO1)O | C6H6O3
reactant | 3-butoxypropylamine | 3 equivalents | C(CCC)OCCCN | C7H17NO
reactant | charcoal | C | CH4
solvent | water | 200 ml | O | H2O
product | 1-(3-Butoxypropyl)-3-hydroxy-2-methylpyrid-4-one | C(CCC)OCCCN1C(=C(C(C=C1)=O)O)C | C13H21NO3
